US05126367
(+)-N-[2-[[(2,3-Dihydro-1,4-benzodioxin-2-yl)methyl]amino]ethyl]-7,7-dimethyl-2-oxobicyclo[2,2,1]heptane-1-carboxamide
(+)-Ketopinic acid (900 mg, 5.0 mmole), prepared from (+)-10-camphorsulfonyl chloride by the procedure of Bartlett and Knox, Org. Syn., 45, p. 55, was converted to the acid chloride by treatment of a solution of the compound in 50 ml of methylene chloride with 1.0 ml (11.5 mmole) of oxalyl chloride. After stirring for 2 hours at room temperature, the mixture was concentrated in vacuum. It was then redissolved in 50 ml of methylenechloride and added at 0° C. to a solution of 1.04 g (10 mmole) of 2-[N-(2-aminoethyl)]aminomethyl-2,3-dihydrobenzodioxin and 1.3 g (10 mmole) of diisopropylethylamine in 50 ml of dichloromethane. After stirring overnight at room temperature, the mixture was washed with saturated sodium bicarbonate solution, with saturated sodium chloride, dried over sodium sulfate, filtered and concentrated in vacuum. The residue was column chromatographed on 75 g of silica gel with chloroform as eluant and the title compound crystallized from isopropanol with the addition of 4 N HCl/isopropyl alcohol and 3 volumes of diethyl ether. This procedure gave 835 mg of title compound as the monohydrochloride, m.p. 172°-173° C., with an [α]D25 =+32.7 (MeOH).

reactant | (+)-10-camphorsulfonyl chloride | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)Cl)C | C10H15ClO3S
reactant | oxalyl chloride | 11.5 mmole, 1.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-[N-(2-aminoethyl)]aminomethyl-2,3-dihydrobenzodioxin | 10 mmole, 1.04 g | NCCNCC1COC2=C(O1)C=CC=C2 | C11H16N2O2
reactant | diisopropylethylamine | 10 mmole, 1.3 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (+)-N-[2-[[(2,3-Dihydro-1,4-benzodioxin-2-yl)methyl]amino]ethyl]-7,7-dimethyl-2-oxobicyclo[2,2,1]heptane-1-carboxamide | 835 mg | O1C(COC2=C1C=CC=C2)CNCCNC(=O)C21C(CC(CC2)C1(C)C)=O | C21H28N2O4
